Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
DISCHARGE PHYSICAL EXAM:
========================
VITALS: ___ 0746 Temp: 99.2 PO BP: 142/94 HR: 75 RR: 18 O2
sat: 93% O2 delivery: Ra 
Gen: Comfortable, in NAD
HEENT: Traumatic superficial abrasions on right forehead with
clotted blood, PERRL, EOMI
Lungs: Clear to auscultation bilaterally, no wheezes, rales, or
rhonchi
CV: RRR, no murmurs, rubs, or gallops
Abd: Soft, distended, non-tender, normoactive bowel sounds
Ext: 2+ peripheral pulses, no c/c/e. Warm. 
Neuro: AOx3. Nonfocal exam
Skin: Back with multiple benign appearing nevi. 

ADMISSION LABS:
===============
___ 06:45PM BLOOD WBC-12.7* RBC-4.74 Hgb-13.7 Hct-42.4 
MCV-90 MCH-28.9 MCHC-32.3 RDW-13.2 RDWSD-43.3 Plt ___
___ 06:45PM BLOOD Neuts-80.7* Lymphs-9.9* Monos-8.6 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-10.23* AbsLymp-1.25 
AbsMono-1.09* AbsEos-0.01* AbsBaso-0.02
___ 06:45PM BLOOD ___ PTT-91.7* ___
___ 06:45PM BLOOD Glucose-137* UreaN-25* Creat-1.3* Na-140 
K-5.2 Cl-108 HCO3-18* AnGap-14
___ 08:24PM BLOOD ALT-12 AST-20 AlkPhos-82 TotBili-1.1
___ 06:45PM BLOOD cTropnT-0.16*
___ 04:12AM BLOOD CK-MB-4 cTropnT-0.10*
___ 06:45PM BLOOD Calcium-8.6 Phos-3.4 Mg-2.2
___ 04:25AM BLOOD Lactate-1.6

PERTINENT DISCHARGE LABS:
=========================
___ 07:53AM BLOOD WBC-7.0 RBC-4.38* Hgb-12.7* Hct-39.1* 
MCV-89 MCH-29.0 MCHC-32.5 RDW-12.9 RDWSD-42.4 Plt ___
___ 07:53AM BLOOD Glucose-100 UreaN-23* Creat-1.2 Na-145 
K-4.4 Cl-109* HCO3-21* AnGap-15
___ 07:53AM BLOOD Calcium-8.6 Phos-4.1 Mg-2.2

MICRO:
======
None

IMAGES:
=======
EKG: Sinus tachycardia rate 101, 1mm STD in lead I, II, V4-V6,
TWI in V3-V6, otherwise normal intervals

CT Head (___):
IMPRESSION:
1. No acute fractures or traumatic malalignment, with
straightening of the normal cervical lordosis likely reflecting
muscle spasm.
2. Multifactorial, multilevel spondylosis, with neural foraminal
compromise at several levels, as described.
3.Atherosclerosis.

CT C-Spine (___):
IMPRESSION:
1.No acute fractures or traumatic malalignment, with
straightening of the normal cervical lordosis likely reflecting
muscle spasm.
___, multilevel spondylosis, with neural foraminal
compromise at several levels, as described.
3.Atherosclerosis

CTA CHEST ___:
1. Extensive pulmonary emboli within the right and left 
pulmonary
arteries, extending to segmental and subsegmental branches of 
the
right upper, right middle, right lower, left upper, and left
lower lobes. No definite evidence
of right heart strain. Hypoenhancing consolidation with
surrounding ground-glass within the left lower lobe, concerning
for pulmonary infarct.
2. Small left pleural effusion.

TTE ___:
Estimated left ventricular ejection fraction is 55%
IMPRESSION: Moderately dilated right ventricle with severe free 
wall hypokinesis (minimal preservation of apical function 
secondary to LV tethering (___ sign). Preserved left 
ventricular systolic function. RV volume overload on the left 
ventricle. Mild to moderate pulmonary hypertension. Mildly 
dilated ascending aorta. ___ 0 AP oriented bicuspid aortic 
valve without pathologic flow.

CLINICAL IMPLICATIONS: The patient has a mildly dilated 
ascending aorta. Based on ___ ACCF/AHA Thoracic Aortic 
Guidelines, if not previously known or a change, a follow-up 
echocardiogram is suggested in ___ year; if previously known and 
stable, a follow-up echocardiogram is suggested in ___ years.

BILAT LOWER EXT VEINS ___:
Nonocclusive deep venous thrombosis involving the left popliteal 
vein, both left peroneal veins, and one of the paired posterior 
tibial veins. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
======================
Mr. ___ is a ___ history of HTN, HLD, who initially presented 
to ___ with syncope and worsening shortness of breath, 
there found to have NSTEMI, transferred here and found to have 
unprovoked submassive PE on CTA chest. He was started on a 
heparin gtt and remained HDS. Formal TTE with evidence of severe 
right heart strain, and per discussion between ___ and 
patient, felt bleeding risk outweighed benefit from tPA. Workup 
for APLS pending. Transitioned briefly to enoxaparin while 
inpatient and discharged on apixaban. Troponins downtrended and 
___ improved at time of discharge. Initial syncopal episode 
thought to be related to PE. 

TRANSITIONAL ISSUES:
====================
PCP:
[ ]Consider increasing atorvastatin to 40mg
[ ]Consider alternative antihypertensive agent
[ ]Will likely need CT chest w/o contrast in ___ months to 
evaluate LLL infarct and for possible lung cancer

Cardiology:
[ ]Follow up anticardiolipin Ab and beta2-glycoprotein Ab
[ ]Incidentally noted bicuspid aortic valve without pathologic 
flow
[ ]Incidentally noted mildly dilated ascending aorta on TTE, rec 
follow up TTE in ___ year if not previously known or a change and 
in ___ years if previously known and stable

MEDICATIONS:
New meds:
-Apixaban 10mg BID for 7 days (___), then 5mg BID 
Stopped meds: none
Changed meds: none

Relevant discharge data:
O2 sat: 92% on RA
Hgb: 12.7

#CODE: FC confirmed
#CONTACT: 
Name of health care proxy: ___ 
Phone number: ___ 

ACUTE ISSUES:
=============
#Hypoxia:
#Pulmonary embolism:
Initially presented with syncopal episode ultimately found to 
have submassive PE on CTA chest. Possible that initial syncopal 
episode iso of cough may have been transient hypotension from 
increased intrathoracic pressure. Bedside TTE in ED showing RV 
dilation, CTA chest no evidence of right heart strain, but 
likely with LLL pulmonary infarct. Formal TTE with evidence of 
severe RV strain. Initially with 3L O2, likely from PE and LLL 
infarct. Now off O2 with ambulation. Initial evidence of 
end-organ damage as below. Case discussed with ___ in ED, no 
role for acute intervention overnight. Unprovoked as no recent 
surgeries, prolonged period of immobility and up to date on 
cancer screenings (per patient had colonoscopy ___ years ago that 
was normal, PCP has been doing regular prostate Ca screenings 
that were normal, is a non-smoker, also recently saw 
dermatologist 2 weeks ago for back nevi that he was told were 
benign). Although unlikely, anticardiolipin Ab and 
beta2-glycoprotein Ab sent as
could potentially change management. LENIs with nonocclusive 
DVTs. Plan for follow up with Dr. ___ in 1 month.
[]TI: will likely need CT chest w/o contrast in ___ months to 
evaluate LLL infarct and for possible lung cancer
[]TI: f/u of incidental found mildly dilated ascending aorta on 
TTE

___, resolved:
Cr 1.5 at OSH, now downtrending to normal s/p IVF. Likely 
prerenal in setting of PE and transient hypotension. Unclear 
baseline, has never been told has abnormal renal function. 

#Troponin elevation, resolved:
#NSTEMI, type II:
Trop peak at 0.2 at OSH, now downtrending. EKG showing 1mm STD 
in lead I, II, V4-V6, TWI in V3-V6. Likely demand ischemia ___ 
PE. Unknown coronary anatomy, however low suspicion this is ACS. 


#Syncope:
Initially presenting with syncope iso of cough. Etiology is very 
likely to be in setting of PE per above. Orthostatics negative. 
No known valvular disease however will be able to assess with 
TTE per above. No known prior history of arrhythmia. 

#Cough:
Endorsing ___ year history of cough, now improved. No prior 
history of smoking. CTA chest with findings per above. Possibly 
related to PE, given improvement in symptoms with AC.

CHRONIC ISSUES:
===============
#HTN:
Has remained hemodynamically stable. SBP ranging up to 150s in
ED. Reportedly developed cough from lisinopril. Initially held 
home verapamil, then restarted. 

#HLD:
Continued home atorvastatin 5mg daily

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 5 mg PO QPM 
2. Verapamil SR 360 mg PO Q24H 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days ; then Apixaban 5 mg 
PO BID 
2.  Atorvastatin 5 mg PO QPM  
3.  Verapamil SR 360 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
==================
Submassive pulmonary embolism

Secondary diagnoses:
====================
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
-You were admitted for syncope.
 
What was done for me while I was in the hospital?  
-You had imaging of your head and neck which were reassuring.
-You had imaging of your chest which showed large clots in the 
blood vessels in your lungs.
-You were started on blood thinners to help reduce the clots.

What should I do when I leave the hospital?  
-Take care to look for changes and blood in bowel movements as 
well as to come into the hospital if you experience any falls or 
trauma to the head as your new medication can make you bleed 
more. 
-Take all of your medications as prescribed (listed below).
-Follow up with your doctors as listed below.
-___ medical attention if you have new or concerning symptoms 
listed below. 

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___